US09056881B2
Methyl bis(pentafluoroethyl)phosphinate, (C2F5)2P(O)OCH3, (3.67 g; 11.6 mmol) is slowly added dropwise to dry and cooled (0° C.) N-butyl-pyrrolidine (1.38 g; 11.2 mmol) (exothermic) in a 25 ml glass flask. A pale-yellow solid forms. The reaction mixture is warmed to room temperature, diluted with 10 ml of n-hexane and stirred for 16.5 h. The readily volatile constituents are removed in vacuo (10−3 mbar) at room temperature. N-Butyl-N-methylpyrrolidinium bis(pentafluoroethyl)phosphinate, [BMPL][(C2F5)2P(O)O], (4.71 g; 10.7 mmol) is isolated as pale-yellow solid in a yield of 96% and a purity of 99%.

reactant | Methyl bis(pentafluoroethyl)phosphinate | FC(C(F)(F)F)(F)P(OC)(=O)C(C(F)(F)F)(F)F | C5H3F10O2P
reactant | (C2F5)2P(O)OCH3 | P(=O)(C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)F)OC | C5H3F10O2P
reactant | N-butyl-pyrrolidine | 11.2 mmol, 1.38 g | C(CCC)N1CCCC1 | C8H17N
solvent | n-hexane | 10 ml | CCCCCC | C6H14
product | N-Butyl-N-methylpyrrolidinium bis(pentafluoroethyl)phosphinate | yield of 96% | FC(C(F)(F)F)(F)P([O-])(=O)C(C(F)(F)F)(F)F.C(CCC)[N+]1(CCCC1)C | InChI=1S/C9H20N.C4HF10O2P/c1-3-4-7-10(2)8-5-6-9-10;5-1(6,7)3(11,12)17(15,16)4(13,14)2(8,9)10/h3-9H2,1-2H3;(H,15,16)/q+1;/p-1
